US06340759B1
Synthesis of 1-(4-ethylsulfonylpiperazin-1-yl)-3-(4-methoxyphenyl)isoquinoline hydrochloride
1-Piperazinyl-3-(4-methoxyphenyl)isoquinoline (140 mg) was dissolved in tetrahydrofuran (2 ml), followed by the addition of triethylamine (0.12 ml) and ethynylsulfonyl chloride (0.08 ml), and the mixture was reacted for 2 hr. The reaction solution was partitioned between ethyl acetate and a 2N aqueous solution of sodium hydroxide. The resulting organic layer was washed with water and brine and dried. The resulting product was recrystallized from hexane/ethyl acetate, to give the title compound (139 mg, yield; 77%). The resulting compound was converted into an oxalate in a conventional manner, to give the oxalate of the title compound as white crystals.

reactant | 1-Piperazinyl-3-(4-methoxyphenyl)isoquinoline | 140 mg | N1(CCNCC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | C20H21N3O
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | ethynylsulfonyl chloride | 0.08 ml | C(#C)S(=O)(=O)Cl | C2HClO2S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(4-ethylsulfonylpiperazin-1-yl)-3-(4-methoxyphenyl)isoquinoline hydrochloride | 139 mg, yield; 77% | Cl.C(C)S(=O)(=O)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | InChI=1S/C22H25N3O3S.ClH/c1-3-29(26,27)25-14-12-24(13-15-25)22-20-7-5-4-6-18(20)16-21(23-22)17-8-10-19(28-2)11-9-17;/h4-11,16H,3,12-15H2,1-2H3;1H
